US07375226B2
(b) 2-Thiophen-2-yl-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridine
1 mmol of 1-(2-Thiophen-2-yl-6,7-dihydro-4H-thiazolo[5,4-c]pyridin-5-yl)-ethanone was refluxed for 30 min. in 15 ml of 2 M aqueous hydrochloric acid. The reaction mixture was cooled and made alkaline by addition of sodium carbonate. Extraction with ethyl acetate yields the title compound as a brownish solid. MS (m/e): 223.3 (M+H+).

reactant | 1-(2-Thiophen-2-yl-6,7-dihydro-4H-thiazolo[5,4-c]pyridin-5-yl)-ethanone | 1 mmol | S1C(=CC=C1)C=1SC=2CN(CCC2N1)C(C)=O | C12H12N2OS2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | hydrochloric acid | 2 M, 15 ml | Cl | ClH
product | 2-Thiophen-2-yl-4,5,6,7-tetrahydro-thiazolo[5,4-c]pyridine | S1C(=CC=C1)C=1SC=2CNCCC2N1 | C10H10N2S2
